US05990105
A mixture of 382 mg (1 mmole) 4-(2-bromo-6-pyrrolidine-1-yl-pyridine-4-sulfonyl)-phenylamine, 91 mg (1.1 mmole) 3,3-dimethyl-1-butyne, 38 mg copper(I)-iodide and 35 mg bis(triphenylphosphine)-palladium(II)-chloride is refluxed for 1 hour in 5 ml dimethylformamide and 5 ml diethylamine. The solvents are removed and the residue is diluted with dichloromethane. The dichloromethane solution is washed twice with water, dried over magnesiumsulfate and concentrated in vacuo. Recrystallisation of the residue from ethanol yields 250 mg (65%) pure 4-[2-(3,3-dimethyl-but-1-ynyl)-6-pyrrolidine-1-yl-pyridine-4-sulfonyl]-phenylamine als a light brown solid mp.: 242-244° C.

reactant | 4-(2-bromo-6-pyrrolidine-1-yl-pyridine-4-sulfonyl)-phenylamine | 1 mmole, 382 mg | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1 | C15H16BrN3O2S
reactant | 3,3-dimethyl-1-butyne | 1.1 mmole, 91 mg | CC(C#C)(C)C | C6H10
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
solvent | diethylamine | 5 ml | C(C)NCC | C4H11N
catalyst | copper(I)-iodide | 38 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium(II)-chloride | 35 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 4-[2-(3,3-dimethyl-but-1-ynyl)-6-pyrrolidine-1-yl-pyridine-4-sulfonyl]-phenylamine | 250 mg, 65% | CC(C#CC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)N1CCCC1)(C)C | C21H25N3O2S
